US07981903B2
A slurry of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (400 mg, 0.835 mmol) and N1-[3-amino-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide hydrogen chloride (217 mg, 0.835 mmol) in THF (15 mL) in 2,2,2-trifluoroethanol (40 mL) was stirred at rt for 3 days. LCMS indicated incomplete reaction, therefore more N1-[3-amino-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide hydrogen chloride (115 mg, 0.24 mmol) was added and the reaction mixture was heated at 80° C. for 4 h. After allowing to cool to rt the reaction mixture was diluted with THF (100 mL) and a 27% aqueous NH4OH solution (100 mL) and stirred at rt. After 20 h CHCl3 (200 mL) was added. The organic layer was washed with a saturated NaCl solution (100 mL), concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-({2-{[5-[(N,N-dimethylglycyl)amino]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide as a white solid (364 mg, 67%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.25 (s, 6H), 2.32 (s, 3H), 3.03 (s, 2H), 3.81 (s, 3H), 6.60 (d, J=4.03 Hz, 1H), 6.97-7.07 (m, 2H), 7.30-7.46 (m, 4H), 7.51 (dd, J=8.79, 2.56 Hz, 1H), 7.87-8.03 (m, 6H), 8.35 (br s, 1H), 9.50 (s, 1H), 10.38 (s, 1H); ESIMS (M+H)+=647.

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 0.835 mmol, 400 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | N1-[3-amino-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide hydrogen chloride | 0.835 mmol, 217 mg | Cl.NC=1C=C(C=CC1OC)NC(CN(C)C)=O
reactant | N1-[3-amino-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide hydrogen chloride | 0.24 mmol, 115 mg | Cl.NC=1C=C(C=CC1OC)NC(CN(C)C)=O
reactant | NH4OH | 100 mL | [NH4+].[OH-]
reactant | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | 2,2,2-trifluoroethanol | 40 mL | FC(CO)(F)F | C2H3F3O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-({2-{[5-[(N,N-dimethylglycyl)amino]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 364 mg, 67% | CN(CC(=O)NC=1C=CC(=C(C1)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C | C31H31FN8O5S
